US06492383B1
2-{4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzylamino)-propane-1,3-diol
The title compound was prepared from serinol and 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde by a procedure analogous to example 17. The product was converted to the mesylate salt analogous to example 17 being converted to the HCl salt. 1H NMR (400 MHz, MeOH) d 8.37 (s, 1H), 7.67 (s, 1H), 7.59 (d, 2H), 7.49 (s, 1H), 7.41 (m, 5H), 7.30 (d, 1H)7.19 (dd, 1H), 6.48 (d, 1H), 3.85s, 2H), 3.59 (m, 4H), 2.72 (m, 1H); LC-MS: 446 (MH+); HPLC RT: 3.2 minutes.

reactant | serinol | NC(CO)CO | C3H9NO2
reactant | 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=O)C=C2 | C21H14N4OS
reactant | HCl | Cl | ClH
product | 2-{4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzylamino)-propane-1,3-diol | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(CNC(CO)CO)C=C2 | C24H23N5O2S
